US07691882B2
3-(3-(6-Benzyl-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (5 mL) solution of 3-ethynyl-pyridin-2,6-diamine (20 mg, 0.15 mmol) described in Manufacturing Example 13-1-3 and 2-(6-benzyl-pyridin-3-yl)-acetohydroximoyl chloride (79 mg, 0.30 mmol) described in Manufacturing Example 210-1-7 was added triethylamine (46 mg, 0.45 mmol), which was stirred for 30 minutes at 50° C. The reaction solution was cooled to room temperature and partitioned into ethyl acetate and water. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate, then ethyl acetate:methanol=20:1) to obtain the title compound (43 mg, 80%).

reactant | 3-ethynyl-pyridin-2,6-diamine | 0.15 mmol, 20 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | 2-(6-benzyl-pyridin-3-yl)-acetohydroximoyl chloride | 0.30 mmol, 79 mg | C(C1=CC=CC=C1)C1=CC=C(C=N1)CC(=NO)Cl | C14H13ClN2O
reactant | triethylamine | 0.45 mmol, 46 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-(6-Benzyl-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 43 mg, 80% | C(C1=CC=CC=C1)C1=CC=C(C=N1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C21H19N5O
